US06727264B1
N-(3-{1-[3-(DIMETHYLAMINO)BENZYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 3-(dimethylamino)benzaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 380.2 (M+H)+.

reactant | 3-(dimethylamino)benzaldehyde | CN(C=1C=C(C=O)C=CC1)C | C9H11NO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[3-(DIMETHYLAMINO)BENZYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | CN(C=1C=C(CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=CC1)C | C24H33N3O
